US04042618
A 5-liter, four-necked, round-bottomed reaction flask, fitted with mechanical stirrer, thermometer, reflux condenser, addition funnel, and heating mantle, is charged with 2500 parts of water and 120 parts of sodium hydroxide and the mixture stirred to dissolve the caustic. To the flask is added 738 parts of 1-naphthol-5-sulfonic acid, sodium salt. Stirring is continued while heating the solution to 50°-60° C. To the flask then is added drop-wise over a two-hour period 332 parts of 3-chloro-1,2-propanediol. The temperature of the reaction solution is gradually increased to reflux (100°-105° C.) and refluxing continued for about 20 hours. The hot solution is treated with charcoal, filtered while hot through fuller's earth, and the filtrate cooled to allow precipitation. The product is isolated by suction filtration and washed in hot isopropanol. The product is recrystallized by dissolving in hot 3:1 ethanol-water, treating with charcoal while hot, filtering through fuller's earth, and allowing the filtrate to cool. The product, 3-(5-sodiosulfo-1-naphthoxy)-1,2-propanediol, is isolated by filtration and dried at 110° C. under reduced pressure. The yield of 99% pure (as determined by adjacent hydroxyl group analysis) product is 100 parts; the product contains 0.04% chloride. The product has an uncorrected melting point of 375° C. (with decomposition).

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-naphthol-5-sulfonic acid | C1=CC2=C(C=CC=C2S(=O)(=O)O)C(=C1)O | C10H8O4S
reactant | sodium | [Na] | Na
reactant | 3-chloro-1,2-propanediol | ClCC(CO)O | C3H7ClO2
reactant | charcoal | C | CH4
solvent | water | O | H2O
product | 3-(5-sodiosulfo-1-naphthoxy)-1,2-propanediol | yield of 99% | [Na]C1=C2C=CC(=C(C2=CC=C1)OCC(CO)O)S(=O)(=O)O | InChI=1S/C13H13O6S.Na/c14-7-10(15)8-19-13-11-4-2-1-3-9(11)5-6-12(13)20(16,17)18;/h1-2,4-6,10,14-15H,7-8H2,(H,16,17,18);
